US07687490B2
(1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylic acid
1 N Hydrochloric acid (7.10 ml) was added to 120 ml of an aqueous solution of 2.73 g of sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate at room temperature, and the mixture was stirred for 3 min. The reaction mixture was extracted twice with 150 ml of ethyl acetate. The extract was dried over anhydrous magnesium sulfate and was filtered, and ethyl acetate was removed by distillation under the reduced pressure until the amount of ethyl acetate was reduced to 50 ml. Hexane (200 ml) was added, and the precipitated solid was collected by filtration to give 1.63 g of the title compound.

reactant | Hydrochloric acid | 1 N, 7.10 ml | Cl | ClH
reactant | sodium (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 2.73 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)[O-])C1=O.[Na+]
product | (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylic acid | 1.63 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)O)C1=O | C16H18N2O5S2
